US07279600B2
Trifluoro-methanesulfonic acid 2-fluoro-4-formyl-phenyl ester
The title compound was prepared by reacting 3-fluoro-4-hydroxybenzaldehyde (1.2 g, 8.56 mmol) with trifluoromethanesulfonic anhydride (1.87 mL, 3.14 g, 11.1 mmol) according to Method D to yield a yellow oil which was used directly in the next step without purification: 1H NMR (CDCl3): δ 7.53-7.58 (1H, m), 7.77-7.85 (2H, m), 10.01 (1H, d, J=1.45 Hz).

reactant | 3-fluoro-4-hydroxybenzaldehyde | 8.56 mmol, 1.2 g | FC=1C=C(C=O)C=CC1O | C7H5FO2
reactant | trifluoromethanesulfonic anhydride | 11.1 mmol, 1.87 mL, 3.14 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
product | Trifluoro-methanesulfonic acid 2-fluoro-4-formyl-phenyl ester | FC1=C(C=CC(=C1)C=O)OS(=O)(=O)C(F)(F)F | C8H4F4O4S
